US04255182
Preparation of 2-chloromethyl-4,4,6,6-tetramethyl-1,3-dithiane
2-Chloro-1,1-dimethoxyethane (0.1 mole) and 2,4-dimethyl-2,4-pentanedithiol (0.1 mole) are charged into a glass reaction vessel fitted with a mechanical stirrer, thermometer, Dean Stark trap and reflux condenser. Toluene sulfonic acid (0.1 grams) is added and the reaction mixture is heated and thiol removed. When the thiol evolution ceases, the reaction mixture is then cooled to room temperature, treated with sodium carbonate (5 grams) and filtered. Volatiles are stripped from the filtrate using a rotary evaporator to yield the desired product 2-chloromethyl-4,4,6,6-tetramethyl-1,3-dithiane as the residue.

reactant | 2-Chloro-1,1-dimethoxyethane | 0.1 mole | ClCC(OC)OC | C4H9ClO2
reactant | 2,4-dimethyl-2,4-pentanedithiol | 0.1 mole | CC(C)(CC(C)(S)C)S | C7H16S2
reactant | Toluene sulfonic acid | 0.1 grams | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
product | 2-chloromethyl-4,4,6,6-tetramethyl-1,3-dithiane | ClCC1SC(CC(S1)(C)C)(C)C | C9H17ClS2
